US04261892
Preparation of 3,3'-(6-chloro-s-triazine-2,4-diyl)bis-3-azabicyclo[3.2.2]nonane
Eighty grams (0.43 mole) of cyanuric chloride is dissolved in 800 ml. of acetone, cooled to less than 10° C. and then one liter of water is added followed by 120 g. (0.96 mole) of 3-azabicyclo[3.2.2]nonane. After 2 hours the reaction is allowed to warm to room temperature and after a further 2 hours 35 g. (0.87 mole) of NaOH in 200 ml. of water is added over 2 hours. The reaction is then stirred for one hour and is then heated to reflux for a further one hour. Dilution with 2 l. of water gives a white precipitate which is filtered off and washed with water. The precipitate is then dissolved in one liter of chloroform and the aqueous solution separated. The aqueous solution is extracted with chloroform, the combined chloroform extracts washed with water, dried over magnesium sulfate and filtered through Magnesol®. The Magnesol® is then washed with one liter of chloroform, the solvent removed in vacuo, and the residue recrystallized from dichloromethane-hexanes giving 120 g. of colorless prisms, m.p. 195°-200° C.

reactant | cyanuric chloride | 0.43 mole, Eighty grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | acetone | CC(=O)C | C3H6O
reactant | 3-azabicyclo[3.2.2]nonane | 0.96 mole | C12CNCC(CC1)CC2 | C8H15N
reactant | NaOH | 0.87 mole | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | one liter | O | H2O
product | 3,3'-(6-chloro-s-triazine-2,4-diyl)bis-3-azabicyclo[3.2.2]nonane | ClC1=NC(=NC(=N1)N1CC2CCC(C1)CC2)N2CC1CCC(C2)CC1 | C19H28ClN5
